US08008340B2
[5-Fluoro-3-(pyridin-2-ylsulfanyl)-1H-indol-2-yl]-piperidin-1-yl-methanone (Iai)
Treat 5-fluoro-1H-indole-2-carboxylic acid 3 (X═F, 1.7 g, 9.5 mmol) with piperidine as described in General Synthetic Procedure VIa to afford 5-fluoro-1H-indol-2yl-piperidin-1-yl-methanone 8 (X═F, R4=piperidin-1-yl; 2.3 g, 100%) as a white solid. 1H NMR (DMSO-d6) δ 11.7 (brs, 1H), 7.5-7.3 (m, 2H), 7.1-7.0 (m, 1H), 6.7 (s, 1H), 3.7 (m, 4H), 1.7-1.5 (m, 6H). Treat 5-fluoro-1H-indol-2yl-piperidin-1-yl-methanone (123 mg, 0.50 mmol) with 2,2′-dithiopyridine (1.3 equiv., 143 mg) as described in General Synthetic Procedure VIIa to afford the title compound Iai (120 mg, 68%) as a yellow solid, m/z=356 (M+1).

reactant | 5-fluoro-1H-indol-2yl-piperidin-1-yl-methanone | 0.50 mmol, 123 mg | FC=1C=C2C=C(NC2=CC1)C(=O)N1CCCCC1 | C14H15FN2O
reactant | 2,2′-dithiopyridine | 143 mg, 1.3 equiv. | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
product | [5-Fluoro-3-(pyridin-2-ylsulfanyl)-1H-indol-2-yl]-piperidin-1-yl-methanone | FC=1C=C2C(=C(NC2=CC1)C(=O)N1CCCCC1)SC1=NC=CC=C1 | C19H18FN3OS
